US04042603
15 g of 4,4'-dimethyldiphenyl ether, 0.034 g (0.15 m. mole) of palladium acetate and 0.015 g (0.15 m. mole) of acetylacetone were placed in a glass vessel and this is placed in a 100 ml-autoclave. Then a mixture gas of nitrogen and oxygen of molar ratio 1:1 was filled in it to 50 kg/cm2 of inner pressure. The autoclave was shaken at 150° C. for 5 hours. After completion of the reaction, the reaction mixture was subjected to fractional distillation. After distilling out the unreacted 4,4'-dimethyldiphenyl ether, a distillate having b.p. 130°-135° C./12 mmHg was recrystallized from ethanol to give 2.6 g (13 m. moles) of 2,8-dimethyldibenzofuran. The obtained 2,8-dimethylbenzofuran showed m.p. 62°-64° C. (reference value, 64° C.).

reactant | 4,4'-dimethyldiphenyl ether | 15 g | CC1=CC=C(C=C1)OC2=CC=C(C=C2)C | C14H14O
reactant | acetylacetone | 0.015 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | oxygen | O=O | O2
catalyst | palladium acetate | 0.034 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,8-dimethyldibenzofuran | 2.6 g | CC1=CC2=C(OC3=C2C=C(C=C3)C)C=C1 | C14H12O
